US07173022B2
4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile.
(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride): Intermediate 1,4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile, (2.46 g, 13.13 mmol) was dissolved in hot ethanol (150 mL). Aqueous 1N HCl (15 mL) was added followed by 10% Pd/C (200 mg). The mixture was shaken under H2 (55 psi) for 4 h., then filtered through Celite and concentrated in vacuo. The remaining residue was partitioned between ethyl acetate and water. The aqueous layer was isolated and lyophilized to give the title compound as a white powder (2.96 g, 99% yield). 1H NMR (500 MHz, CD3OD) δ ppm: 9.51 (1H, s), 8.63 (1H, s), 7.85 (1H, dd, J=8.5, 5.8 Hz), 7.68 (1H, dd, J=8.8, 2.4 Hz), 7.49 (1H, td, J=8.3, 2.4 Hz), 4.20 (2H, s). LCMS (M+H) calcd for C9H10N4F: 193.08; found: 193.16.

reactant | (4-Fluoro-2-(1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride | Cl.FC1=CC(=C(C=C1)CN)N1N=CN=C1
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile | 2.96 g, 99% yield | FC1=CC(=C(C#N)C=C1)N1N=CN=C1 | C9H5FN4
